US07851474B2
G. 1-Benzyl-1′-[(4-cyclobutylpiperazin-1-yl)carbonyl]spiro[indole-3,4′-piperidin]-2(1H)-one (Compound 23)
A suspension of 1-benzylspiro[indole-3,4′-piperidin]-2(1H)-one (0.417 mmol), 4-nitrophenyl chloroformate (84 mg, 0.417 mmol) and K2CO3 (172 mg, 1.25 mmol) in CH3CN (6 ml) is stirred at ambient temperature for 2 h. A solution of 1-cyclobutylpiperazine (0.417 mmol) and TEA (0.175 ml, 1.25 mmol) in CH3CN (4 ml) is added and the mixture is heated at 110° C. in a sealed tube overnight. Solvent is removed in vacuo and to the residue is added EtOAc (15 ml). The mixture is stirred at rt for 15 min and filtered. The filtrated is evaporated and the residue is purified by PTLC to give the title compound as a white solid. LC-MS (M+1): 458.3.

reactant | 1-benzylspiro[indole-3,4′-piperidin]-2(1H)-one | 0.417 mmol | C(C1=CC=CC=C1)N1C(C2(CCNCC2)C2=CC=CC=C12)=O | C19H20N2O
reactant | 4-nitrophenyl chloroformate | 0.417 mmol, 84 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | K2CO3 | 1.25 mmol, 172 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-cyclobutylpiperazine | 0.417 mmol | C1(CCC1)N1CCNCC1 | C8H16N2
solvent | CH3CN | 6 ml | CC#N | C2H3N
solvent | CH3CN | 4 ml | CC#N | C2H3N
product | 1-Benzyl-1′-[(4-cyclobutylpiperazin-1-yl)carbonyl]spiro[indole-3,4′-piperidin]-2(1H)-one | C(C1=CC=CC=C1)N1C(C2(CCN(CC2)C(=O)N2CCN(CC2)C2CCC2)C2=CC=CC=C12)=O | C28H34N4O2
